US08735406B2
Process of 2-(2-fluorophenyl)-9-methyl-7-(pyrrolidin-1-ylcarbonyl)-7,9-dihydro-8H-purine-8-one
To a mixture of 2-chloro-9-methyl-7-(pyrrolidin-1-ylcarbonyl)-7,9-dihydro-8H-purine-8-one <the compound of Reference Example 16> (100 mg), 2-fluorophenylboronic acid (74 mg), potassium carbonate (145 mg), toluene (3 ml) and ethanol (1 ml) was added bis(tri-tert-butylphosphine)palladium (9 mg) under nitrogen atmosphere and the mixture was stirred at 130° C. under microwave irradiation for 1 hour. The reaction mixture was filtered through Celite and the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent: chloroform/methanol=100/0˜90/10) to give the title compound 58 mg.

reactant | 2-chloro-9-methyl-7-(pyrrolidin-1-ylcarbonyl)-7,9-dihydro-8H-purine-8-one | ClC1=NC=C2N(C(N(C2=N1)C)=O)C(=O)N1CCCC1 | C11H12ClN5O2
reactant | 2-fluorophenylboronic acid | 74 mg | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
reactant | potassium carbonate | 145 mg | C([O-])([O-])=O.[K+].[K+]
reactant | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
catalyst | bis(tri-tert-butylphosphine)palladium | 9 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 2-(2-fluorophenyl)-9-methyl-7-(pyrrolidin-1-ylcarbonyl)-7,9-dihydro-8H-purine-8-one | 58 mg | FC1=C(C=CC=C1)C1=NC=C2N(C(N(C2=N1)C)=O)C(=O)N1CCCC1 | C17H16FN5O2
